US07709481B2
To a stirred solution of 13.9 g of crude 6-Benzyloxy-3-oxo-hexanoic acid ethyl ester in 50 ml dichloromethane were added dropwise 4.3 ml sulfuryl chloride. The reaction mixture was stirred at 0° C. and then at room temperature for thirty minutes. The reaction mixture was poured on ice and extracted three times with portions of 150 ml dichloromethane. The combined organic layers were washed with water, dried over MgSO4 and then the solvent was evaporated in vacuo to obtain 14.9 g of crude 6-Benzyloxy-2-chloro-3-oxo-hexanoic acid ethyl ester as a yellow oil.

reactant | 6-Benzyloxy-3-oxo-hexanoic acid ethyl ester | 13.9 g | C(C)OC(CC(CCCOCC1=CC=CC=C1)=O)=O | C15H20O4
reactant | sulfuryl chloride | 4.3 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-Benzyloxy-2-chloro-3-oxo-hexanoic acid ethyl ester | 14.9 g | C(C)OC(C(C(CCCOCC1=CC=CC=C1)=O)Cl)=O | C15H19ClO4
